US05190922
Benzyl cyanide (0.97 mL, 8.4 mmole) was reacted with lithium bis(trimethylsilyl)amide (LHMDSA) (8.4 mL, 8.4 mmole) in 5 mL of THF at -78° C. for 1 hour. After an additional aliquot of LHMDSA (4.2 mL, 4.2 mmole) was added, N-(2-chloroethyl)dibenzylamine hydrochloride (1.0 g, 3.4 mmole) was then added. The reaction was allowed to stand at room temperature and was then warmed to 50° C. for 3.5 hours. The mixture was poured into ice/water, and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford alpha-(N,N-dibenzylaminoethyl) benzyl cyanide (1.05 g), isolated in 94% yield (MS: (M+H)+ =341).

reactant | Benzyl cyanide | 8.4 mmole, 0.97 mL | C(C1=CC=CC=C1)C#N | C8H7N
reactant | lithium bis(trimethylsilyl)amide | 8.4 mmole, 8.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-(2-chloroethyl)dibenzylamine hydrochloride | 3.4 mmole, 1.0 g | Cl.ClCCN(CC1=CC=CC=C1)CC1=CC=CC=C1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | alpha-(N,N-dibenzylaminoethyl) benzyl cyanide | 1.05 g, 94% yield | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCC(C1=CC=CC=C1)C#N | C24H24N2
